US09163021B2
N-(2-{[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-4-yl)-2-[4-(trifluoromethyl)-1H-1,2,3-triazol-1-yl]acetamide
Prepared according to the method described for Method M (Example 206) using (4-aminopyridin-2-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone (Preparation 27) and [4-(Trifluoromethyl)-1H-1,2,3-triazol-1-yl]acetic acid (Preparation 90). The residue was purified using alumina eluting with 3% MeOH in DCM to afford the title compound.

reactant | (4-aminopyridin-2-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone | NC1=CC(=NC=C1)C(=O)C1=CN(C2=C1C=NC=C2)C(CO[Si](C)(C)C(C)(C)C)(C)C | C23H32N4O2Si
reactant | [4-(Trifluoromethyl)-1H-1,2,3-triazol-1-yl]acetic acid | FC(C=1N=NN(C1)CC(=O)O)(F)F | C5H4F3N3O2
product | N-(2-{[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1,1-dimethylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-4-yl)-2-[4-(trifluoromethyl)-1H-1,2,3-triazol-1-yl]acetamide | [Si](C)(C)(C(C)(C)C)OCC(C)(C)N1C=C(C=2C=NC=CC21)C(=O)C2=NC=CC(=C2)NC(CN2N=NC(=C2)C(F)(F)F)=O | C28H34F3N7O3Si
